US08314100B2
1-[(2-Methoxy-6,7-dimethylquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 185)
Ethyl N-(2-methoxy-6,7-dimethylquinoxalin-3-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 183 to obtain the titled compound (yield, 49%). 1H NMR (300 MHz, CDCl3) δ 2.33 (s, 6H), 2.40 (s, 3H), 3.21-3.31 (m, 4H), 3.74-4.11 (m, 3H), 4.13 (s, 4H), 6.71-6.78 (m, 3H), 7.16-7.20 (m, 1H), 7.36 (br s, 1H), 7.52 (s, 1H), 7.60 (s, 1H).

reactant | Ethyl N-(2-methoxy-6,7-dimethylquinoxalin-3-yl)carbamate | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)C)C | C14H17N3O3
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(2-Methoxy-6,7-dimethylquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 49% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C)C)C | C23H27N5O2
